2159-11-12 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2159-11-11**] 10:30 AM
 MULTI LUMEN - START [**2159-11-11**] 11:42 AM
 ARTERIAL LINE - START [**2159-11-11**] 12:30 PM
 URINE CULTURE - At [**2159-11-11**] 02:20 PM
 INVASIVE VENTILATION - START [**2159-11-11**] 04:36 PM
   - HCT stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2159-11-11**] 11:45 AM
   Vancomycin - [**2159-11-11**] 02:30 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2159-11-11**] 04:53 PM
   Pantoprazole (Protonix) - [**2159-11-11**] 08:30 PM
   Other medications:
   Albuterol
   Chlorhexidine
   Vanco
   Ceftriaxone
   Fluticasone
   Protonix
   Iss
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-11-12**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 69 (53 - 71) bpm
   BP: 134/57(77) {92/39(53) - 140/65(89)} mmHg
   RR: 17 (12 - 24) insp/min
   SpO2: 100% (95-100)
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.9 kg (admission): 46.3 kg
    CVP: 9 (6 - 20)mmHg
   Bladder pressure: 20 (19 - 25) mmHg
   Total In:
                                                                  2,777 mL
                                                                    115 mL
   PO:
   TF:
   IVF:
                                                                  1,627 mL
                                                                    115 mL
   Blood products:
                                                                  1,150 mL
   Total out:
                                                                    980 mL
                                                                    159 mL
   Urine:
                                                                    280 mL
                                                                    159 mL
   NG:
   Stool:
   Drains:
                                                                    700 mL
   Balance:
                                                                  1,797 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 573 (573 - 573) mL
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 46.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/38/181/25/3
   Ve: 8.2 L/min
   PaO2 / FiO2: 453
   Physical Examination
   Gen: elderly male intubated and sedated, intermittently agitated and
   thrashing
   HEENT: mild scleral icterus, PERRL
   NECK: right IJ CVL in place, no lymphadenopathy
   CV: rrr, no murmur appreciated
   LUNGS: clear anteriorly
   ABD: distended, grimace to palpation, tympanic to percussion,
   hypoactive bowel sounds
   EXT: warm, dp pulses 1+ bilaterally
   SKIN: scattered ecchymoses worst on BL antecubital areas
   NEURO: intubated and sedated, opening eyes to painful stimulus, moving
   all extremities,
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   83 K/uL
   11.3 g/dL
   85 mg/dL
   3.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   75 mg/dL
   94 mEq/L
   130 mEq/L
   31.3 %
   6.2 K/uL
        [image002.jpg]
   Platelets 78 to 83
   Tbili 4.3 to 7.1
   Micro: [**11-11**] urine pending, [**11-7**] urine contaminated
   [**11-7**] [**11-11**] blood pending
   [**11-7**] para GS 2+ poly
   [**11-11**] para pending
   CT head no hemorrhage
   , CT abd, ileus, stable ascites, small bowel with presistant contrast
   suggesting veinous congestion / blockage [**12-23**] SMV thrombosis
   RUQ US no portal vein thrombosis
                            [**2159-11-11**]  10:27 AM
                            [**2159-11-11**]  02:51 PM
                            [**2159-11-11**]  03:09 PM
                            [**2159-11-11**]  05:53 PM
                            [**2159-11-11**]  11:22 PM
                            [**2159-11-11**]  11:35 PM
                            [**2159-11-12**]  04:30 AM
                            [**2159-11-12**]  04:54 AM
   WBC
   7.5
   5.6
   5.7
   6.2
   Hct
   27.6
   27.7
   29.6
   31.3
   Plt
   106
   84
   78
   83
   Cr
   3.3
   3.3
   3.5
   TCO2
   26
   28
   27
   28
   Glucose
   87
   116
   85
   85
   Other labs: PT / PTT / INR:19.2/46.0/1.8, ALT / AST:[**9-18**], Alk Phos / T
   Bili:64/7.1, Differential-Neuts:87.3 %, Lymph:5.2 %, Mono:4.3 %,
   Eos:3.2 %, Lactic Acid:1.3 mmol/L, Albumin:4.3 g/dL, LDH:145 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 68 y/o man with PMH notable for alcoholic cirrhosis admitted
   with abdominal pain/distension in setting of SMV thrombus and now
   transferred to MICU with hypotension/bradycardia and altered mental
   status.
   .
   # Hypotension/bradycardia: Improved after dosing of glucagon and likely
   related to decreased clearance of nadolol in setting of worsening renal
   failure. With hematocrit drop, also could be due to volume depletion
   with blood loss. Concern also for sepsis, but source unclear.
   Investigated abdomen as potential source with CT abdomen/pelvis, no
   evidence of hemoperiteneum. Paracentesis on arrival to ICU not
   consistent with SBP.
   - HR stable off glucagons
   - repeat lactate 1.3
   - hold all beta blockade
   - CT abdomen/pelvis concerning of SMV veinous congestion. Bowel
   necresis unlikely with downtrending lactate and stable BP.
   - follow blood cultures, paracentesis cultures
   .
   # Altered mental status: Could be related to hypotension or new
   infection (intraabdominal versus bacteremia). Appears to have been
   taking lactulose for past few days but hepatic encephalopathy also
   likely
   - CT head without contrast without evidence of hemmorhage
   - follow studies for para, no evidence of SBP
   - hold lactulose for now (no NG tube due to recent banding of varices).
   Can tolerate encephalopathy given intubated. Will talk with liver
   regaurding visualized placement of NG so can give lactulose /
   decompress gas.
   -avoid excessive versed as likely to clear slowly and clear the pt
   slowly
   .
   # Anemia: Hct down 10 points over 24 hours with hypotension no obvious
   GI bleed. No hemoperituneum.. Has known varices with banding several
   days ago.
   - check hemolysis labs, Coombs test -> hapto low, difficult to
   interperate given transfusion
   - hold all antihypertensives
   - s/p 2 U PRBCs on arrival to the ICU
   - post-transfusion hct stable
   - guaiac stools
   - CT abdomen/pelvis  without evidence of  hemoperitoneum
   .
   # Acute renal failure: Concerning for hepatorenal syndrome. Urine lytes
   this morning with urine sodium < 10.
   - albumin 100 g daily X 2 days
   - consider midodrine/octreotide, originially held given possible ileus
   to readdress with GI.
   .
   # Hyponatremia: Improving since admission. Off of diuretics. Continue
   to trend.
   .
   # Alcoholic cirrhosis: MELD now 31 with yesterdays labs. Recent SMV
   thrombosis on scan, with heparin gtt as described above, which is now
   off.
   - trend LFTs, bili uptrending
   - holding  lactulose, may need NG tube for dosing
   - RUQ ultrasound and CT abd/pelvis as above. RUQ without portal vein
   thobosis. SMV clot close to portal vein. A clot in portal vein would
   remove pt from consideration for transplant. Given this is extremely
   important to pt survival will talk with GI regaurding starting heparin
   gtt agai
   .
   # Type 2 DM: sliding scale insulin. while not eating, will need some
   lantus coverage (1/2 dose of 45 units given while eating).
   .
   # Hypertension: hold all antihypertensives for now
   .
   # COPD: continue albuterol prn
   .
   # FEN: npo for now, lyte repletion prn. Discuss NG tube with liver
   .
   # PPx: pneumoboots, ppi,
   # Acess RIJ, PIV
   .
   # CODE: full, confirmed with wife who is hcp
   .
   # COMM: With patient and his wife, [**Name (NI) 96**]. [**Numeric Identifier 4502**]
   .
   # DISP: icu care for now
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 ANEMIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-11-11**] 10:30 AM
   Multi Lumen - [**2159-11-11**] 11:42 AM
   Arterial Line - [**2159-11-11**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-11-13 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2159-11-12**] 01:50 PM
   patient tongued out ETT. Reintubated without incident
 PARACENTESIS - At [**2159-11-12**] 04:09 PM
   - fluid boluses (2 X 500) to bring up UOP
   - paracentesis negative for SBP
   - increased abd distention with no rise in lactate
   - worsening renal fxn Cr up to 3.7 at night
   - planned to get liver transplant this afternoon
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-11-11**] 02:30 PM
   Ceftriaxone - [**2159-11-12**] 11:38 AM
   Metronidazole - [**2159-11-13**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2159-11-12**] 04:17 PM
   Midazolam (Versed) - [**2159-11-12**] 07:24 PM
   Pantoprazole (Protonix) - [**2159-11-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-11-13**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.7
C (99.8
   HR: 72 (63 - 86) bpm
   BP: 97/45(60) {84/44(58) - 144/73(95)} mmHg
   RR: 14 (12 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.8 kg (admission): 46.3 kg
    CVP: 7 (6 - 16)mmHg
   Bladder pressure: 25 (25 - 27) mmHg
   Total In:
                                                                  1,698 mL
                                                                    203 mL
   PO:
   TF:
   IVF:
                                                                  1,371 mL
                                                                    203 mL
   Blood products:
                                                                    327 mL
   Total out:
                                                                    846 mL
                                                                    367 mL
   Urine:
                                                                    846 mL
                                                                    367 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    852 mL
                                                                   -164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 623 (524 - 667) mL
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.43/36/188/23/0
   Ve: 8 L/min
   PaO2 / FiO2: 470
   Physical Examination
   Gen: elderly male intubated and sedated, intermittently agitated and
   thrashing
   HEENT: mild scleral icterus, PERRL
   NECK: right IJ CVL in place, no lymphadenopathy
   CV: rrr, no murmur appreciated
   LUNGS: clear anteriorly
   ABD: distended, grimace to palpation, tympanic to percussion,
   hypoactive bowel sounds
   EXT: warm, dp pulses 1+ bilaterally
   SKIN: scattered ecchymoses worst on BL antecubital areas
   NEURO: intubated and sedated, opening eyes to painful stimulus, moving
   all extremities,
   Labs / Radiology
   72 K/uL
   10.9 g/dL
   108 mg/dL
   3.5 mg/dL
   23 mEq/L
   4.4 mEq/L
   76 mg/dL
   98 mEq/L
   134 mEq/L
   30.6 %
   6.2 K/uL
        [image002.jpg]
                            [**2159-11-11**]  02:51 PM
                            [**2159-11-11**]  03:09 PM
                            [**2159-11-11**]  05:53 PM
                            [**2159-11-11**]  11:22 PM
                            [**2159-11-11**]  11:35 PM
                            [**2159-11-12**]  04:30 AM
                            [**2159-11-12**]  04:54 AM
                            [**2159-11-12**]  05:18 PM
                            [**2159-11-12**]  10:16 PM
                            [**2159-11-13**]  03:49 AM
   WBC
   5.6
   5.7
   6.2
   6.1
   6.2
   Hct
   27.7
   29.6
   31.3
   29.7
   30.6
   Plt
   84
   78
   83
   76
   72
   Cr
   3.3
   3.5
   3.7
   3.5
   TCO2
   26
   28
   27
   28
   25
   Glucose
   116
   85
   85
   90
   108
   Other labs: PT / PTT / INR:20.9/51.4/2.0, ALT / AST:[**9-18**], Alk Phos / T
   Bili:64/7.1, Differential-Neuts:87.3 %, Lymph:5.2 %, Mono:4.3 %,
   Eos:3.2 %, Lactic Acid:1.3 mmol/L, Albumin:4.3 g/dL, LDH:145 IU/L,
   Ca++:9.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a 68 y/o man with PMH notable for alcoholic cirrhosis admitted
   with abdominal pain/distension in setting of SMV thrombus and now
   transferred to MICU with hypotension/bradycardia and altered mental
   status, with possible liver transplant this afternoon.
   .
   # Hypotension/bradycardia: Improved after dosing of glucagon and likely
   related to decreased clearance of nadolol in setting of worsening renal
   failure. With hematocrit drop, also could be due to volume depletion
   with blood loss. Concern also for sepsis, but source unclear.
   Investigated abdomen as potential source with CT abdomen/pelvis, no
   evidence of hemoperiteneum. Paracentesis on arrival to ICU not
   consistent with SBP.
   - HR stable off glucagons
   - repeat lactate 1.3
   - hold all beta blockade
   - CT abdomen/pelvis concerning of SMV veinous congestion. Bowel
   necresis unlikely with downtrending lactate and stable BP.
   - follow blood cultures, paracentesis cultures
   - on empiric abx
   .
   # Altered mental status: Could be related to hypotension or new
   infection (intraabdominal versus bacteremia). Appears to have been
   taking lactulose for past few days but hepatic encephalopathy also
   likely
   - CT head without contrast without evidence of hemmorhage
   - follow studies for para, no evidence of SBP
   - hold lactulose for now (no NG tube due to recent banding of varices).
   Can tolerate encephalopathy given intubated. Will talk with liver
   regaurding visualized placement of NG so can give lactulose /
   decompress gas.
   -avoid excessive versed as likely to clear slowly
   - consider MR head for follow up of CT
   .
   # Anemia: Hct down 10 points over 24 hours with hypotension no obvious
   GI bleed. No hemoperituneum.. Has known varices with banding several
   days ago.
   - check hemolysis labs, Coombs test -> hapto low, difficult to
   interperate given transfusion
   - hold all antihypertensives
   - s/p 2 U PRBCs on arrival to the ICU
   - post-transfusion hct stable
   - guaiac stools
   - CT abdomen/pelvis  without evidence of  hemoperitoneum
   .
   # Acute renal failure: Concerning for hepatorenal syndrome. Urine lytes
   with urine sodium < 10.
   - albumin 100 g daily X 2 days
   - consider midodrine/octreotide, originially held given possible ileus
   to readdress with GI.
   .
   # Hyponatremia: Improving since admission. Off of diuretics. Continue
   to trend.
   .
   # Alcoholic cirrhosis: MELD low 30s. Recent SMV thrombosis on scan,
   with heparin gtt as described above, which is now off.
   - trend LFTs, bili uptrending
   - holding  lactulose, but will need via NGT, no BMs last several days
   - RUQ ultrasound and CT abd/pelvis as above. RUQ without portal vein
   thobosis. SMV clot close to portal vein. A clot in portal vein would
   remove pt from consideration for transplant. Given this is extremely
   important to pt survival will talk with GI regaurding starting heparin
   gtt agai
   .
   # Type 2 DM: sliding scale insulin. while not eating, will need some
   lantus coverage (1/2 dose of 45 units given while eating).
   .
   # Hypertension: hold all antihypertensives for now
   .
   # COPD: continue albuterol prn
   .
   # FEN: npo for now, lyte repletion prn. Discuss NG tube with liver
   .
   # PPx: pneumoboots, ppi,
   # Acess RIJ, PIV
   .
   # CODE: full, confirmed with wife who is hcp
   .
   # COMM: With patient and his wife, [**Name (NI) 96**]. [**Numeric Identifier 4502**]
   .
   # DISP: icu care for now
 HYPOTENSION (NOT SHOCK)
 CARDIAC DYSRHYTHMIA OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 ANEMIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-11-11**] 10:30 AM
   Multi Lumen - [**2159-11-11**] 11:42 AM
   Arterial Line - [**2159-11-11**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: